US09450195B2
Synthesis of 1-(4-bromo-2,6-diisopropylphenyl)-2-(3-methoxyphenyl)-1H-imidazole
A 500 ml round bottom flask was charged with N-(4-bromo-2,6-diisopropylphenyl)-3-methoxybenzimidamide (19.73 g, 50.7 mmol), 2-chloroacetaldehyde (12.83 ml, 101 mmol), sodium bicarbonate (12.77 g, 152 mmole) and 2-Propanol (300 ml). The reaction was allowed to reflux for 16 hours. The reaction mixture was diluted with deionized water and extracted with ethyl acetate, the organic portion was combined and subjected to a column chromatography (SiO2 gel; 20% THF in heptane) to yield the desired product (16.47 g, 79%).

reactant | N-(4-bromo-2,6-diisopropylphenyl)-3-methoxybenzimidamide | 50.7 mmol, 19.73 g | BrC1=CC(=C(C(=C1)C(C)C)NC(C1=CC(=CC=C1)OC)=N)C(C)C | C20H25BrN2O
reactant | 2-chloroacetaldehyde | 101 mmol, 12.83 ml | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | 152 mmole, 12.77 g | C([O-])(O)=O.[Na+]
reactant | 2-Propanol | 300 ml | CC(C)O | C3H8O
solvent | water | O | H2O
product | 1-(4-bromo-2,6-diisopropylphenyl)-2-(3-methoxyphenyl)-1H-imidazole | 16.47 g, 79% | BrC1=CC(=C(C(=C1)C(C)C)N1C(=NC=C1)C1=CC(=CC=C1)OC)C(C)C | C22H25BrN2O
